US04002647
An ice-cold solution of 6.0 g. of 6-[(3,7-dimethyl-2,6-nonadienyl)-oxy]-2,3-dihydrobenzofuran in 40 ml. of absolute methanol is treated dropwise while stirring with a solution of 6.7 g. of mercuric acetate in 100 ml. of methanol. The mixture is stirred for 2 hours at room temperature, after which there are added in the cold 23 ml. of 10% by weight aqueous sodium hydroxide followed by 0.4 g. of sodium borohydride in 23 ml. of 10% by weight aqueous sodium hydroxide. The mixture is stirred for 20 minutes at room temperature, filtered through diatomaceous earth, the filtrate saturated with sodium chloride and extracted three times with diethyl ether. The extracts are washed neutral with sodium chloride solution, dried over sodium sulfate and evaporated. By chromatography on silica gel with hexane/ethyl acetate (19:1 parts by volume) there is obtained pure 2,3-dihydro-6-[(7-methoxy-3,7-dimethyl-2-nonenyl)-oxy]-benzofuran which is distilled in a bulb-tube at 125° C./0.03 mmHg; nD20 = 1.5236.

reactant | 6-[(3,7-dimethyl-2,6-nonadienyl)-oxy]-2,3-dihydrobenzofuran | CC(=CCOC1=CC2=C(CCO2)C=C1)CCC=C(CC)C | C19H26O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | CO | CH4O
product | 2,3-dihydro-6-[(7-methoxy-3,7-dimethyl-2-nonenyl)-oxy]-benzofuran | COC(CCCC(=CCOC1=CC2=C(CCO2)C=C1)C)(CC)C | C20H30O3
